US08957203B2
Preparation of tert-butyl (1-(hydroxymethyl)cyclopropyl)sulfonylcarbamate
To a solution of tert-butyl cyclopropylsulfonylcarbamate (30 g, 136 mmol) in 750 mL of THF was added dropwise butyllithium (1.6 M in hexane, 212 mL, 339 mmol) over 30 min at −78° C. and the resulting mixture was stirred at −78° C. for 1 h. Formaldehyde gas was generated from para-formaldehyde (by heating at 180° C.) and was purged in to the above reaction mass for 30 min at −30° C. The reaction was stirred at the same temperature for 1 h, then allowed to warm to room temperature. The reaction was quenched with aqueous ammonium chloride solution and diluted with water. The resulting mass was washed with ethyl acetate and the aqueous layer was acidified to pH ˜2 and extracted with ethyl acetate. The combined organics were dried over sodium sulfate and evaporated under reduced pressure to get desired compound (27 g, 79%) as white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 10.90 (sb, 1H), 4.95 (sb, 1H), 3.75 (s, 2H), 1.42 (s, 9H), 1.27 (m, 2H), 1.08 (m, 2H).

reactant | tert-butyl cyclopropylsulfonylcarbamate | 136 mmol, 30 g | C1(CC1)S(=O)(=O)NC(OC(C)(C)C)=O | C8H15NO4S
reactant | butyllithium | 339 mmol, 1.6 M, 212 mL | C(CCC)[Li]
reactant | Formaldehyde | C=O | CH2O
solvent | THF | 750 mL | C1CCOC1 | C4H8O
product | tert-butyl (1-(hydroxymethyl)cyclopropyl)sulfonylcarbamate | 27 g, 79% | OCC1(CC1)S(=O)(=O)NC(OC(C)(C)C)=O | C9H17NO5S
